2122-09-03 06:39:00 Physician Resident Progress Note
Chief Complaint: 64F with tracheobronchomalacia transferred for
   consideration of Y stent placement.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-9-2**] 01:08 PM
 PICC LINE - START [**2122-9-2**] 01:32 PM
   -Overnight patient NPO after midnight for planned bronchoscopy today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Albuterol and ipratroprium MDI
   Metoprolol 25mg PO BID
   Valsartan 80mg PO daily
   Alprazolam 0.25mg PO TID prn
   Chlorhexidine
   Citalopram 20mg PO daily
   Duloxetine 60mg PO daily
   Gabapentin 200mg PO TID
   SC heparin
   HCTZ 12.5mg PO daily
   Lansoprazole
   Oxycodone 5mg PO Q6hr prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-3**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 66 (65 - 83) bpm
   BP: 107/55(68) {91/45(56) - 158/93(105)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,310 mL
                                                                    350 mL
   PO:
             TF:
                                                                    250 mL
   IVF:
                                                                    650 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,010 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 798 (357 - 798) mL
   PS : 18 cmH2O
   RR (Set): 8
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 122
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 4.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   9.6 g/dL
   93 mg/dL
   1.2 mg/dL
   25 mEq/L
   5.2 mEq/L
   43 mg/dL
   113 mEq/L
   142 mEq/L
   30.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
   WBC
   12.9
   12.2
   Hct
   34.0
   30.4
   Plt
   331
   298
   Cr
   1.4
   1.2
   Glucose
   100
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging
   CXR [**2122-9-2**]:_______
   Assessment and Plan
   A/P: 64F with tracheobronchomalacia transferred for consideration of Y
   stent placement.
   #. Tracheobronchomaliacia: admitted for consideration of Y stent.
   -IP aware: plan for bronch today, NPO p midnight last night
   -check CBC, coags
   -continue CPAP+PS
   .
   #.Respiratory failure: multifactorial with COPD, presumed OSA, obesity
   hypoventilation.  Patient has been ventilated for the last 6 weeks at
   OSH
   -continue cpap +PS for now
   -bronch in AM to evaluate
   .
   #. HTN- continue home regimen
   .
   # Chronic pain- continue home meds
   .
   # Depression- continue home meds
   .
   # PPX- lansoprazole, PPI, SC heparin
   # Access: PIV
   # Nutrition: TF's, replete lytes
   # Dispo: Back to VT pending IP evaluation
   # code: full code
   ICU Care
   Nutrition: Tube feeds with Fibersource until midnight last night.
   Nutrition consult for low albumin
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, back to VT pending IP evaluation

2122-09-03 09:26:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o F w/hypercarbic respiratory failure felt [**1-31**] COPD, OSA, obesity
   hypoventilation and TBM here for evaluation of possible Y stent
   [**37**] Hour Events:
 INVASIVE VENTILATION - START [**2122-9-2**] 01:08 PM
 PICC LINE - START [**2122-9-2**] 01:32 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   heparin SQ, albuterol, atrovent, valsartan 80 mg daily, nystatin cream,
   lopressor 25 mg [**Hospital1 **], lansoprazole 30 mg daily, hctz 12.5 mg daily,
   neurontin 200 mg tid, celexa 20 mg daily, calcium carbonate 1250 [**Hospital1 **],
   duloxetine, peridex, insulin sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-3**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 75 (65 - 83) bpm
   BP: 129/58(75) {91/45(56) - 158/93(105)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,310 mL
                                                                    452 mL
   PO:
             TF:
                                                                    250 mL
   IVF:
                                                                    650 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    350 mL
   Urine:
                                                                    300 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,010 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 574 (357 - 798) mL
   PS : 18 cmH2O
   RR (Set): 8
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 122
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   298 K/uL
   93 mg/dL
   1.2 mg/dL
   25 mEq/L
   5.2 mEq/L
   43 mg/dL
   113 mEq/L
   142 mEq/L
   30.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
   WBC
   12.9
   12.2
   Hct
   34.0
   30.4
   Plt
   331
   298
   Cr
   1.4
   1.2
   Glucose
   100
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR with improved LLL infiltrate compared with prior [**7-7**]
   Assessment and Plan
   64 y/o F w/hypercarbic respiratory failure here requiring chronic
   ventilation for possible Y stent placement.
   1)       Tracheobronchomalacia:  IP has evaluated and plan is for
   bronch today.
   2)       Resp failure
 multifactorial. COPD, presumed OSA with ?
   Obesity hypoventilation.  Continue current vent settings.
   3)       HTN
 home meds
   4)       Depression: cont home medications
   5)       Fibromyalgia
   6)       Tube feeds for nutrition
   7)       Sub Q Hep for DVT prophylaxis
   8)       PPI
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  30 min

2122-09-04 06:41:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2122-9-3**] 01:30 PM : Noted partially healing
   posterior tracheal membrane tear which precludes placement of Y stent.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-4**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 81 (63 - 97) bpm
   BP: 135/72(86) {108/51(64) - 169/134(138)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,069 mL
                                                                    386 mL
   PO:
             TF:
                                                                     80 mL
                                                                    140 mL
   IVF:
                                                                    519 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    250 mL
   Urine:
                                                                    950 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    119 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 302 (259 - 574) mL
   PS : 18 cmH2O
   RR (Set): 8
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   295 K/uL
   10.5 g/dL
   101 mg/dL
   1.2 mg/dL
   27 mEq/L
   5.1 mEq/L
   32 mg/dL
   112 mEq/L
   144 mEq/L
   32.9 %
   15.3 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
   WBC
   12.9
   12.2
   15.3
   Hct
   34.0
   30.4
   32.9
   Plt
   [**Telephone/Fax (3) 1462**]
   Cr
   1.4
   1.2
   1.2
   Glucose
   100
   93
   101
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.1
   mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   64F with tracheobronchomalacia transferred for consideration of Y stent
   placement.
   #. Tracheobronchomaliacia: Bronchoscopy yesterday revealed persistant
   (though healing) posterior tracheal membrane  tear which precludes
   placement of Y stent.
   -Suction with 10Fr catheter only to minimize further damage
   - Outpatient follow up with IP in several weeks/months.
   #.Respiratory failure: multifactorial with COPD, presumed OSA, obesity
   hypoventilation.  Patient has been ventilated for the last 6 weeks at
   OSH
   -continue cpap +PS for now
   # Leukocytosis: Afebrile
   -send UA
   -f/u C diff
   #. HTN- continue home regimen
   # Chronic pain- continue home meds
   # Depression- continue home meds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-3**] 06:41 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital **] transfer to [**State 1455**] later today

2122-09-04 09:31:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o F w/hypercarbic respiratory failure here requiring chronic
   ventilation for possible Y stent placement
   24 Hour Events:
 BRONCHOSCOPY - At [**2122-9-3**] 01:30 PM:  revealed persistent although
   healing tear in the posterior trachea
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-4**] 08:45 AM
   Other medications:
   atrovent MDIs, albuterol MDIs, valsartan, nystatin cream, lopressor 25
   mg [**Hospital1 **], lansoprazole 30 mg daily, hctz 12.5 mg daily, neurontin 200 mg
   tid, celexa 20 mg daily, calcium carbonate 1250 mg [**Hospital1 **], duloxetine 60
   mg daily, humalog sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-4**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 76 (63 - 97) bpm
   BP: 143/79(94) {108/51(64) - 169/134(138)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,069 mL
                                                                    584 mL
   PO:
             TF:
                                                                     80 mL
                                                                    220 mL
   IVF:
                                                                    519 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    250 mL
   Urine:
                                                                    950 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    119 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 458 (259 - 546) mL
   PS : 18 cmH2O
   RR (Set): 8
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , Diminished: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   295 K/uL
   101 mg/dL
   1.2 mg/dL
   27 mEq/L
   5.1 mEq/L
   32 mg/dL
   112 mEq/L
   144 mEq/L
   32.9 %
   15.3 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
   WBC
   12.9
   12.2
   15.3
   Hct
   34.0
   30.4
   32.9
   Plt
   [**Telephone/Fax (3) 1462**]
   Cr
   1.4
   1.2
   1.2
   Glucose
   100
   93
   101
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.1
   mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   64 y/o F w/hypercarbic respiratory failure here requiring chronic
   ventilation for possible Y stent placement.
   1)       Tracheobronchomalacia: No Y stent given that trachea has not
   yet healed.
   2)       Resp failure
 multifactorial. COPD, presumed OSA with ?
   Obesity hypoventilation.  Continue current vent settings.
   3)       HTN
 home meds
   4)       Depression: cont home medications
   5)       Fibromyalgia
   6)       Tube feeds for nutrition
   7)       Sub Q Hep for DVT prophylaxis
   8)       PPI
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-3**] 06:41 PM 30 mL/hour
   Comments: can have ice chips
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 30 min

2122-09-05 06:42:00 Physician Resident Progress Note
Chief Complaint:
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear.
   24 Hour Events:
   - Patient found to be C. diff positive, so started on flagyl
   - No beds available at [**Last Name (LF) 1455**], [**First Name3 (LF) **] will likely remain here over weekend
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole 500mg IV Q8h - [**2122-9-5**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-5**] 12:08 AM
   Other medications:
   Albuterol and ipratroprium MDI
   Metoprolol 25mg PO BID
   Valsartan 80mg PO daily
   Alprazolam 0.25mg PO TID prn
   Citalopram 20mg PO daily
   Duloxetine 60mg PO daily
   Gabapentin 200mg PO TID
   HCTZ 12.5mg PO daily
   Lansoprazole
   Oxycodone prn
   Alprazolam prn
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-5**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 77 (69 - 92) bpm
   BP: 124/64(79) {124/62(56) - 182/144(154)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,572 mL
                                                                    527 mL
   PO:
             TF:
                                                                    811 mL
                                                                    300 mL
   IVF:
                                                                    340 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,322 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Face mask at 70% with humidified air
   Physical Examination
   Gen: pleasant, in NAD, breathing comfortably without accessory muscle
   use
   HEENT: area of prior trach bandaged, c/d/i
   Lungs: course upper airway sounds in all lung fields, good air movement
   CV: RR, no m/r/g
   Ext: no LE edema
   Labs / Radiology
   283 K/uL
   10.0 g/dL
   139 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.8 mEq/L
   27 mg/dL
   111 mEq/L
   145 mEq/L
   31.6 %
   19.1 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   Hct
   34.0
   30.4
   32.9
   31.6
   Plt
   [**Telephone/Fax (3) 1486**]83
   Cr
   1.4
   1.2
   1.2
   1.1
   Glucose
   100
   93
   101
   139
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.1
   mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
    Assessment and Plan
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear.
   #. Tracheobronchomaliacia: Bronchoscopy on Thursday revealed persistent
   (though healing) posterior tracheal membrane tear which precludes
   placement of Y stent.
   -Suction with 10Fr catheter only to minimize further damage
   - Outpatient follow up with IP in 2 months
   .
   #. Recurrent cdiff
 Patient had episode of cdiff at OSH, finished
   treatment of flagyl on  [**2122-8-31**]. Now with increased diarrhea overnight.
   Patient restarted on IV flagyl, will follow BMs.
   - continue flagyl, change from IV to PO dosing 500mg PO Q8h
   - place rectal tube
   - follow BMs, and if diarrhea increases consider switching to PO vanco
   .
   #.Respiratory failure: multifactorial with COPD, presumed OSA, obesity
   hypoventilation.  Patient has been ventilated for the last 6 weeks at
   OSH
   -continue CPAP +PS for now
   .
   # Leukocytosis: Likely [**1-31**] recurrent cdiff. On treatment with flagyl
   now.
   -follow WBC
   .
   #. HTN- continue home regimen
   .
   # Chronic pain- continue home meds
   .
   # Depression- continue home meds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-3**] 06:41 PM 30 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer: PPI
   VAP: Not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital **] transfer to [**State 1455**] as soon as bed available

2122-09-05 11:05:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with her
   note above, including assessment and plan.
   HPI:
   64 y/o F w/hypercarbic respiratory failure here requiring chronic
   ventilation for possible Y stent placement but with persistent tracheal
   tear precluding stent placement.
   24 Hour Events:
   - worsened diarrhea, C diff toxin positive (has been in past).  Flagyl
   restarted.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-5**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-5**] 08:00 AM
   Other medications:
   insulin sliding scale, albuterol & atrovent q6h, valsartan 80 mg daily,
   nystatin cream, metoprolol 25 mg daily, lansoprazole, hctz, neurontin,
   celexa, calcium carbonate, duloxetine, peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2122-9-5**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 83 (69 - 97) bpm
   BP: 163/83(102) {124/63(56) - 182/152(157)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,572 mL
                                                                    937 mL
   PO:
             TF:
                                                                    811 mL
                                                                    489 mL
   IVF:
                                                                    340 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,322 mL
                                                                    937 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 359 (344 - 685) mL
   PS : 18 cmH2O
   RR (Set): 8
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   283 K/uL
   139 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.8 mEq/L
   27 mg/dL
   111 mEq/L
   145 mEq/L
   31.6 %
   19.1 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   Hct
   34.0
   30.4
   32.9
   31.6
   Plt
   [**Telephone/Fax (3) 1486**]83
   Cr
   1.4
   1.2
   1.2
   1.1
   Glucose
   100
   93
   101
   139
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.1
   mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Microbiology: C diff toxin positive.
   Assessment and Plan
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   1)       Tracheobronchomalacia: No Y stent given that trachea has not
   yet healed.   F/u with IP in 2 months.
   2)       Resp failure
 multifactorial. COPD, presumed OSA with ?
   Obesity hypoventilation.  Continue current vent settings.
   3)       HTN
 home meds
   4)       Depression: cont home medications
   5)       Leukocytosis, diarrhea:  Had C.diff in VT, treatment unclear.
   [**Name2 (NI) 1490**] worsening diarrhea and leukocytosis, will restart flagyl (can
   change to po).
   - if worsens, switch to po vanco
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-5**] 04:07 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2122-09-06 06:23:00 Physician Resident Progress Note
Chief Complaint:
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear, also with recurrent cdiff infection.
   24 Hour Events:
   - patient on day #2 of flagyl for recurrent cdiff
   - rectal tube and foley catheters placed
   - awaiting bed at [**State 1455**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 02:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-6**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-6**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 76 (63 - 97) bpm
   BP: 146/72(89) {112/44(64) - 174/152(157)} mmHg
   RR: 20 (6 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,911 mL
                                                                    470 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    287 mL
   IVF:
                                                                    490 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    238 mL
   Urine:
                                                                    705 mL
                                                                    238 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,206 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 272 (272 - 850) mL
   PS : 18 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 8.9 L/min
   Physical Examination
   Gen: NAD
   HEENT: MMM
   CV: RRR
   PULm: scattered rhonchi
   Abd: obese, softly distended, nontender
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   10.4 g/dL
   141 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.3 mEq/L
   21 mg/dL
   109 mEq/L
   146 mEq/L
   32.8 %
   18.4 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   Plt
   [**Telephone/Fax (3) 1486**]83
   318
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   Glucose
   100
   93
   101
   139
   141
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear, also with recurrent cdiff infection.
   #. Tracheobronchomaliacia: Bronchoscopy on Thursday revealed persistent
   (though healing) posterior tracheal membrane tear which precludes
   placement of Y stent.
   -Suction with 10Fr catheter only to minimize further damage
   - Outpatient follow up with IP in [**2-1**] months
   .
   #. Recurrent C Diff
 Patient had episode of cdiff at OSH, finished
   treatment of flagyl x 6 days on  [**2122-8-31**]. Day one of flagyl [**2122-9-5**].
   - continue Flagyl 500mg PO Q8h
   - rectal tube in place
   - follow BMs, and if diarrhea increases consider switching to PO vanco
   .
   #.Respiratory failure: multifactorial with COPD, presumed OSA, obesity
   hypoventilation.  Patient has been ventilated for the last 6 weeks at
   OSH
   -continue CPAP +PS for now
   .
   # Leukocytosis: Likely [**1-31**] recurrent cdiff. On treatment with flagyl
   now.
   -follow WBC
   .
   #. HTN- continue home regimen
   .
   # Chronic pain- continue home meds
   .
   # Depression- continue home meds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-3**] 06:41 PM 30 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer: PPI
   VAP: Not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital **] transfer to [**State 1455**] as soon as bed available

2122-09-06 10:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   24 Hour Events:
   No events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-6**] 08:00 AM
   Other medications:
   atrovent, albuterol, valsartan, nystatin, metoprolol 25 [**Hospital1 **],
   lansoprazole, hctz, neurontin, celexa, tums, duloxetine, peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2122-9-6**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 67 (63 - 85) bpm
   BP: 118/61(76) {112/44(64) - 166/95(108)} mmHg
   RR: 10 (6 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,911 mL
                                                                    761 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    476 mL
   IVF:
                                                                    490 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    438 mL
   Urine:
                                                                    705 mL
                                                                    438 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,206 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 283 (272 - 850) mL
   PS : 18 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   318 K/uL
   141 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.3 mEq/L
   21 mg/dL
   109 mEq/L
   146 mEq/L
   32.8 %
   18.4 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   Plt
   [**Telephone/Fax (3) 1486**]83
   318
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   Glucose
   100
   93
   101
   139
   141
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   1)       Tracheobronchomalacia: No Y stent given that trachea has not
   yet healed.   F/u with IP in 2 months.
   2)       Resp failure
 multifactorial. COPD, presumed OSA with ?
   Obesity hypoventilation.  Continue current vent settings.
   3)       HTN
 home meds
   4)       Depression: cont home medications
   5)       Leukocytosis, diarrhea:  Had C.diff in VT, treatment unclear.
   Started flagyl yesterday, will plan on 14 day course.
   - if worsens, switch to po vanco
   6)       Hypernatremia:  Likely volume loss from diarrhea.  Increase
   free water boluses.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-6**] 04:06 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2122-09-07 07:51:00 Physician Resident Progress Note
Chief Complaint:
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear, also with recurrent cdiff infection.
   24 Hour Events:
   -          no acute events overnight
   -          stool output improved on flagyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-7**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 74 (62 - 89) bpm
   BP: 163/74(86) {100/51(51) - 163/104(112)} mmHg
   RR: 11 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,163 mL
                                                                  1,090 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    353 mL
   IVF:
                                                                    291 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,073 mL
                                                                    270 mL
   Urine:
                                                                  1,073 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 643 (283 - 727) mL
   PS : 18 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 6.3 L/min
   Physical Examination
   Gen: NAD,
   HEENT: MMM, trach in place
   CV: RRR
   PULm: scattered rhonchi
   Abd: obese, softly distended, nontender
   Ext: no c/c/e
   Labs / Radiology
   292 K/uL
   10.0 g/dL
   114 mg/dL
   1.1 mg/dL
   35 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   145 mEq/L
   31.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
                             [**2122-9-7**]  04:53 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   14.6
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   31.7
   Plt
   [**Telephone/Fax (2) 1503**]
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   1.1
   Glucose
   100
   93
   101
   139
   141
   114
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.0
   mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear, also with recurrent cdiff infection
   stable for transfer back to OSH/rehab facility for continued care.
   #. Tracheobronchomaliacia: Bronchoscopy on [**9-3**] revealed persistent
   (though healing) posterior tracheal membrane tear which precludes
   placement of Y stent.
   - Suction with 10Fr catheter only to minimize further damage
   - Outpatient follow up with IP in [**2-1**] months
   .
   #. Recurrent C Diff
 Patient had episode of cdiff at OSH, finished
   treatment of flagyl x 6 days on  [**2122-8-31**]. Day one of flagyl [**2122-9-5**].
   Bowel movements decreased on continued flagyl.
   - continue Flagyl 500mg PO Q8h
   - follow BMs, and if diarrhea increases consider switching to PO vanco
   .
   #.Respiratory failure: multifactorial with COPD, presumed OSA, obesity
   hypoventilation.  Patient has been ventilated for the last 6 weeks at
   OSH
   -continue CPAP +PS for now
   .
   # Leukocytosis: Likely [**1-31**] recurrent cdiff. On treatment with flagyl
   now.
   -follow WBC
   .
   #. HTN- continue home regimen
   .
   # Chronic pain- continue home meds
   .
   # Depression- continue home meds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-7**] 04:03 AM 45 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital **] transfer to [**State 1455**] as soon as bed available.
   Also will talk to case management regarding other rehab options that
   would be able to handle ventilator

2122-09-07 11:23:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   24 Hour Events:
   No overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-7**] 09:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-7**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 68 (62 - 93) bpm
   BP: 161/82(102) {100/51(51) - 167/104(112)} mmHg
   RR: 13 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,163 mL
                                                                  1,353 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    507 mL
   IVF:
                                                                    291 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  1,073 mL
                                                                    520 mL
   Urine:
                                                                  1,073 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    833 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 643 (520 - 727) mL
   PS : 18 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 23 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   292 K/uL
   114 mg/dL
   1.1 mg/dL
   35 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   145 mEq/L
   31.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
                             [**2122-9-7**]  04:53 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   14.6
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   31.7
   Plt
   [**Telephone/Fax (2) 1503**]
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   1.1
   Glucose
   100
   93
   101
   139
   141
   114
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:9.0
   mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   1)       Tracheobronchomalacia: No Y stent given that trachea has not
   yet healed.   F/u with IP in 2 months.
   2)       Resp failure
 multifactorial. COPD, presumed OSA with ?
   Obesity hypoventilation.  Continue current vent settings.
   3)       HTN
 home meds
   4)       Depression: cont home medications
   5)       Leukocytosis, diarrhea:  Had C.diff in VT, treatment unclear.
   Started flagyl [**9-5**], will plan on 14 day course.
   - if worsens, switch to po vanco
   6)       Hypernatremia:  Likely volume loss from diarrhea.  Increase
   free water boluses.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-7**] 04:03 AM 45 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min

2122-09-08 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   no events
   continues to have diarrhea
   no complaints
   awaiting bed in [**State 1455**] or rehab
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-8**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints
   Flowsheet Data as of  [**2122-9-8**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 82 (68 - 93) bpm
   BP: 164/93(104) {108/53(67) - 183/98(112)} mmHg
   RR: 18 (10 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,802 mL
                                                                    603 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    362 mL
   IVF:
                                                                    481 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    545 mL
   Urine:
                                                                  1,095 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (560 - 752) mL
   PS : 18 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 4.5 L/min
   Physical Examination
   Gen: trached, pleasant, no complaints
   Heent: mmm
   Cv: rrr
   Pulm cta b/l
   Abd: obese, soft, nt/nd
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   8.7 g/dL
   93 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   144 mEq/L
   27.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
                             [**2122-9-7**]  04:53 AM
                             [**2122-9-8**]  04:44 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   14.6
   15.3
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   31.7
   27.2
   Plt
   [**Telephone/Fax (3) 1503**]
   308
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   1.1
   1.0
   Glucose
   100
   93
   101
   139
   141
   114
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:8.9
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear, also with recurrent cdiff infection
   stable for transfer back to OSH/rehab facility for continued care.
   #. Tracheobronchomaliacia: Bronchoscopy on [**9-3**] revealed persistent
   (though healing) posterior tracheal membrane tear which precludes
   placement of Y stent.
   - Suction with 10Fr catheter only to minimize further damage
   - Outpatient follow up with IP in [**2-1**] months
   #. Recurrent C Diff
 Patient had episode of cdiff at OSH, finished
   treatment of flagyl x 6 days on  [**2122-8-31**]. Day one of flagyl [**2122-9-5**].
   Bowel movements decreased on continued flagyl.
   - change from Flagyl to PO vanco for better control of c diff
   -follow stool output, leukocytosis
   .
   #.Respiratory failure: multifactorial with COPD, presumed OSA, obesity
   hypoventilation.  Patient has been ventilated for the last 6 weeks at
   OSH
   -continue CPAP +PS for now
   # Leukocytosis: Likely [**1-31**] recurrent cdiff. On treatment with flagyl
   now.
   -follow WBC
   #. HTN- continue home regimen
   # Chronic pain- continue home meds
   # Depression- continue home meds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-8**] 04:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer:  ppi
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to rehab or [**State **]

2122-09-08 11:01:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   24 Hour Events:
   No events.
   Diarrhea unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-8**] 12:22 AM
   Other medications:
   albuterol, atrovent, valsartan, neurontin, celexa, calcium carbonate,
   duloxetine, peridex, lopressor, lansoprazole, hctz, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-8**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 86 (68 - 90) bpm
   BP: 115/66(78) {108/53(67) - 183/98(112)} mmHg
   RR: 14 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,802 mL
                                                                    788 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    490 mL
   IVF:
                                                                    481 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    775 mL
   Urine:
                                                                  1,095 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 442 (442 - 752) mL
   PS : 18 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: trach tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   308 K/uL
   93 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   144 mEq/L
   27.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
                             [**2122-9-7**]  04:53 AM
                             [**2122-9-8**]  04:44 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   14.6
   15.3
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   31.7
   27.2
   Plt
   [**Telephone/Fax (3) 1503**]
   308
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   1.1
   1.0
   Glucose
   100
   93
   101
   139
   141
   114
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:8.9
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   1)       Tracheobronchomalacia: No Y stent given that trachea has not
   yet healed.   F/u with IP in 2 months.
   2)       Resp failure
 multifactorial. COPD, presumed OSA with ?
   Obesity hypoventilation.  Continue current vent settings.
   3)       HTN
 home meds
   4)       Depression: cont home medications
   5)       Leukocytosis, diarrhea:  Had C.diff in VT, treatment unclear.
   Started flagyl [**9-5**] but no improvement in diarrhea so switched to po
   vanco.
   6)       Hypernatremia:  Resolved.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-8**] 04:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 min

2122-09-09 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          switched to PO vanco for increased diarrhea on flagyl
   -          evaluated for rehab placement by [**Hospital1 997**] and [**Hospital 1543**] rehab
   facilities
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-9**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-9-9**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 69 (64 - 86) bpm
   BP: 158/77(97) {115/59(52) - 159/98(105)} mmHg
   RR: 15 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,034 mL
                                                                    494 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    300 mL
   IVF:
                                                                    482 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    780 mL
   Urine:
                                                                  1,635 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    399 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (442 - 626) mL
   PS : 18 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   HEENT: MMM, +trach
   PULM: CTA ant
   CV: RRR
   ABD: soft,    obese, NT/ND
   EXT: WWP, no edema
   Neurologic: oriented to person, place, situation
   Labs / Radiology
   308 K/uL
   8.7 g/dL
   93 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   144 mEq/L
   27.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
                             [**2122-9-7**]  04:53 AM
                             [**2122-9-8**]  04:44 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   14.6
   15.3
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   31.7
   27.2
   Plt
   [**Telephone/Fax (3) 1503**]
   308
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   1.1
   1.0
   Glucose
   100
   93
   101
   139
   141
   114
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:8.9
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64F with tracheobronchomalacia transferred for bronchoscopy and found
   to have persistent tracheal tear, also with recurrent cdiff infection
   stable for transfer back to OSH/rehab facility for continued care.
   #. Tracheobronchomaliacia: Bronchoscopy on [**9-3**] revealed persistent
   (though healing) posterior tracheal membrane tear which precludes
   placement of Y stent.
   - Suction with 10Fr catheter only to minimize further damage
   - Outpatient follow up with IP in [**2-1**] months
   #. Recurrent C Diff
 Patient had episode of cdiff at OSH, finished
   treatment of flagyl x 6 days on  [**2122-8-31**]. Day one of flagyl [**2122-9-5**].
   Bowel movements decreased on continued flagyl.
   - change from Flagyl to PO vanco for better control of c diff
   -follow stool output, leukocytosis
   .
   #.Respiratory failure: multifactorial with COPD, presumed OSA, obesity
   hypoventilation.  Patient has been ventilated for the last 6 weeks at
   OSH
   -continue CPAP +PS for now
   # Leukocytosis: Likely [**1-31**] recurrent cdiff. On treatment with flagyl
   now.
   -follow WBC
   #. HTN- continue home regimen
   # Chronic pain- continue home meds
   # Depression- continue home meds
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-9**] 03:59 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-09-09 09:06:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   24 Hour Events:
   - started on po vanco for c.diff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-9-6**] 06:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-9-9**] 01:35 AM
   Other medications:
   albuterol, atrovent, valsartan, neurontin, celexa, calcium, duloxetine,
   peridex, nystatin, metoprolol, lansoprazole, hctz, free water boluses,
   po vanc 250 q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea, perhaps mildly improved
   Flowsheet Data as of  [**2122-9-9**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 87 (64 - 87) bpm
   BP: 160/88(107) {115/59(52) - 160/98(107)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.2 kg (admission): 93.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,034 mL
                                                                    727 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    402 mL
   IVF:
                                                                    482 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    910 mL
   Urine:
                                                                  1,635 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    399 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 454 (454 - 626) mL
   PS : 18 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   308 K/uL
   93 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   144 mEq/L
   27.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2122-9-2**]  03:18 PM
                             [**2122-9-3**]  05:41 AM
                             [**2122-9-4**]  03:12 AM
                             [**2122-9-5**]  03:11 AM
                             [**2122-9-6**]  04:50 AM
                             [**2122-9-7**]  04:53 AM
                             [**2122-9-8**]  04:44 AM
   WBC
   12.9
   12.2
   15.3
   19.1
   18.4
   14.6
   15.3
   Hct
   34.0
   30.4
   32.9
   31.6
   32.8
   31.7
   27.2
   Plt
   [**Telephone/Fax (3) 1503**]
   308
   Cr
   1.4
   1.2
   1.2
   1.1
   1.2
   1.1
   1.0
   Glucose
   100
   93
   101
   139
   141
   114
   93
   Other labs: PT / PTT / INR:14.9/28.2/1.3, Albumin:2.8 g/dL, Ca++:8.9
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   64 y/o F w/hypercarbic respiratory failure requiring chronic
   ventilation transferred here for possible Y stent placement, unable to
   do so given persistent tear in trachea.
   1)       Tracheobronchomalacia: No Y stent given that trachea has not
   yet healed.   F/u with IP in 2 months.
   2)       Resp failure
 multifactorial. COPD, presumed OSA with ?
   Obesity hypoventilation.  Continue current vent settings.
   3)       HTN
 home meds
   4)       Depression: cont home medications
   5)       Leukocytosis, diarrhea:  Had C.diff in VT, treatment unclear.
   Started flagyl [**9-5**] but no improvement in diarrhea so switched to po
   vanco [**9-7**].
   6)       Hypernatremia:  Resolved
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2122-9-9**] 03:59 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2122-9-2**] 01:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: